US07745475B2
3-Fluoro-4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoic acid
A solution of ethyl 3-fluoro-4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoate (1.8 g, 3.94 mmol) in THF (60 mL) was added to a solution of lithium hydroxide monohydrate (0.83 g, 19.7 mmol) in water (30 mL). The mixture was stirred at RT for 72 hours and the THF removed in vacuo. The aqueous layer was extracted into ethyl acetate (100 mL) to remove any impurities, then acidified with 1M hydrochloric acid and extracted into ethyl acetate (2×100 mL). The combined extracts were dried (MgSO4) and the solvent removed in vacuo to give the desired compound (1.62 g).

reactant | ethyl 3-fluoro-4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoate | 3.94 mmol, 1.8 g | FC=1C=C(C(=O)OCC)C=CC1OC1=CC(=CC(=C1)C(=O)NC1=NN(C=C1)C)O[C@H](CO)C | C23H24FN3O6
reactant | lithium hydroxide monohydrate | 19.7 mmol, 0.83 g | O.[OH-].[Li+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 3-Fluoro-4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoic acid | 1.62 g | FC=1C=C(C(=O)O)C=CC1OC1=CC(=CC(=C1)C(=O)NC1=NN(C=C1)C)O[C@H](CO)C | C21H20FN3O6
